US06025375
Sodium (64 mg) was dissolved in ethanol (10 ml) and 3'-hydroxy-3-biphenylcarboxylic acid (0.5 g) was added thereto. The mixture was stirred at room temperature for 20 minutes, and then conc. sulfuric acid (1 drop) and desyl bromide (642 mg) was added thereto. The resulting mixture was stirred under reflux for 3 hours, cooled to room temperature, and partitioned between water and ethyl acetate. The organic layer was washed successively with water (twice), 1N hydrochloric acid, sodium bicarbonate aqueous solution, and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed (n-hexane--ethyl acetate) over silica gel to afford 2-oxo-1,2-diphenylethyl 3'-hydroxy-3-biphenylcarboxylate (744 mg) as a paste.

reactant | Sodium | 64 mg | [Na] | Na
reactant | 3'-hydroxy-3-biphenylcarboxylic acid | 0.5 g | OC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)O | C13H10O3
reactant | desyl bromide | 642 mg | C1(=CC=CC=C1)C(=O)C(C1=CC=CC=C1)Br | C14H11BrO
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
product | 2-oxo-1,2-diphenylethyl 3'-hydroxy-3-biphenylcarboxylate | 744 mg | OC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)OC(C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C27H20O4
